US08877934B2
Step B: (E)-4-Methyl-N-[2-[(2-methyl-4-quinolyl)amino]ethyl]pent-2-enethioamide
(E)-4-Methyl-N-[2-[(2-methyl-4-quinolyl)amino]ethyl]pent-2-enamide (50 mg, 0.15 mmol) was dissolved in dioxane (2 ml), Lawesson's reagent (75 mg, 0.18 mmol) was added in one portion and the resulting mixture was stirred at 130° C. under microwave heating for 0.5 hrs. The volatiles were removed under reduced pressure and the residue was purified by preparative HPLC (gradient of water containing 0.1% ammonia and acetonitrile) to yield 15 mg (0.047 mmol, 28.5%).

reactant | (E)-4-Methyl-N-[2-[(2-methyl-4-quinolyl)amino]ethyl]pent-2-enamide | 0.15 mmol, 50 mg | CC(/C=C/C(=O)NCCNC1=CC(=NC2=CC=CC=C12)C)C | C18H23N3O
reactant | Lawesson's reagent | 0.18 mmol, 75 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (E)-4-Methyl-N-[2-[(2-methyl-4-quinolyl)amino]ethyl]pent-2-enethioamide | CC(/C=C/C(NCCNC1=CC(=NC2=CC=CC=C12)C)=S)C | C18H23N3S
